US09371320B2
C) 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide
A solution of 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid (100 mg), HOBt ammonium salt (227 mg) and EDCI hydrochloride (180 mg) in DMF (15 mL) was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane/methanol) to give the title compound (88 mg).

reactant | 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid | 100 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)O | C17H16BrN3O3S
reactant | EDCI hydrochloride | 180 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 88 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)N | C17H17BrN4O2S
